US07919628B2
To a solution of 1.5 g 4-bromo-1-hydroxy-2-naphthoic acid in 20 ml abs. DMF under inert atmosphere 0.84 g 1-hydroxybenzotriazole, 1.18 g 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride and 1.1 ml of N,N-diisopropylethylamine were added. After 15 minutes 0.86 g of 2-amino-2-methyl-propionic acid methyl ester hydrochloride, followed by 1.1 ml of N,N-diisopropylethylamine were added. After 24 h at room temperature and 2 h at 50° C. the reaction mixture was concentrated, the residue was taken up in ethyl acetate and washed with 2 M HCl, aqueous sodium carbonate solution (10%) and brine. The organic layer was dried over magnesium sulphate, and concentrated to yield 1.44 g of 2-[(4-bromo-1-hydroxy-naphthalene-2-carbonyl)-amino]-2-methyl-propionic acid methyl ester.

reactant | 4-bromo-1-hydroxy-2-naphthoic acid | 1.5 g | BrC1=CC(=C(C2=CC=CC=C12)O)C(=O)O | C11H7BrO3
reactant | 1-hydroxybenzotriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.18 g | Cl.C(C)N=C=NCCCN(C)C
reactant | N,N-diisopropylethylamine | 1.1 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-amino-2-methyl-propionic acid methyl ester hydrochloride | 0.86 g | Cl.COC(C(C)(C)N)=O
reactant | N,N-diisopropylethylamine | 1.1 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-[(4-bromo-1-hydroxy-naphthalene-2-carbonyl)-amino]-2-methyl-propionic acid methyl ester | 1.44 g | COC(C(C)(C)NC(=O)C1=C(C2=CC=CC=C2C(=C1)Br)O)=O | C16H16BrNO4
